US07220758B2
1-[2-(benzyloxy)ethyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine
Pyridine hydrochloride (0.04 g, 0.380 mmol), and trimethyl orthobutyrate (4.6 mL, 28.48 mmol) were added to a stirred solution of N4-[2-(benzyloxy)ethyl]-5,6-dimethyl-2-phenoxypyridine-3,4-diamine (6.9 g, 18.984 mmol) prepared as in Part E of Example 4 in toluene (65 mL). After the resulting solution was heated to reflux for 2 hours, the reaction was complete as determined by TLC (using 1/1 hexane/ethyl acetate), HPLC, and LC/MS. The reaction solution was then concentrated under reduced pressure, and the resulting oil was dissolved in ethyl acetate. The ethyl acetate solution was washed with brine (3×), dried with magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting tan solids were triturated with diethyl ether, filtered off, and dried to provide 6.5862 g of pure product (by NMR and LC/MS), which was used in the next step.

reactant | trimethyl orthobutyrate | 28.48 mmol, 4.6 mL | C(CCC)(OC)(OC)OC | C7H16O3
reactant | N4-[2-(benzyloxy)ethyl]-5,6-dimethyl-2-phenoxypyridine-3,4-diamine | 18.984 mmol, 6.9 g | C(C1=CC=CC=C1)OCCNC1=C(C(=NC(=C1C)C)OC1=CC=CC=C1)N | C22H25N3O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pyridine hydrochloride | 0.380 mmol, 0.04 g | Cl.N1=CC=CC=C1
product | 1-[2-(benzyloxy)ethyl]-6,7-dimethyl-4-phenoxy-2-propyl-1H-imidazo[4,5-c]pyridine | 6.5862 g | C(C1=CC=CC=C1)OCCN1C(=NC=2C(=NC(=C(C21)C)C)OC2=CC=CC=C2)CCC | C26H29N3O2
